US06340759B1
(235-1) 8-Methoxy-3-(4-methoxyphenyl)isoquinoline-1-(2H)-one
Ethyl 2-methoxy-6-methylbenzoate (5.011 g) was dissolved in tetrahydrofuran (20 ml), followed by the addition of 1.5M lithium diisopropylamide/cyclohexane solution (19 ml) in nitrogen atmosphere at −70° C. The resulting mixture was stirred for 45 min. Anisonitrile (3.462 g)/tetrahydrofuran (10 ml) solution was added to the reaction mixture. The cooling bath was removed, and then the mixture was stirred for 100 min. An aqueous solution of saturated ammonium chloride and ethyl acetate were added to the reaction solution, and the mixture was stirred for 30 min. The resulting insoluble matters were collected by filtration, and then washed with ethyl acetate and water, to give the title compound as a pale yellow solid (991 mg, yield; 13%).

reactant | Ethyl 2-methoxy-6-methylbenzoate | 5.011 g | COC1=C(C(=O)OCC)C(=CC=C1)C | C11H14O3
reactant | lithium diisopropylamide cyclohexane | 1.5M, 19 ml | C(C)(C)[N-]C(C)C.[Li+].C1CCCCC1
reactant | Anisonitrile | 3.462 g | C(C1=CC=C(C=C1)OC)#N | C8H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-Methoxy-3-(4-methoxyphenyl)isoquinoline-1-(2H)-one | 991 mg, yield; 13% | COC=1C=CC=C2C=C(NC(C12)=O)C1=CC=C(C=C1)OC | C17H15NO3
